US07531553B2
Preparation XLIV: 4-Chloro-3-(2-chloro-ethoxy)-phenylamine
To an argon-degassed solution of 1-chloro-2-(2-chloro-ethoxy)-4-nitro-benzene (2.9 g, <12.5 mmol due to contamination) in EtOAc (50 mL) was added 10% by weight Pd/C (1 g). The reaction was stirred under H2 for 18 h then filtered through Celite® and concentrated in vacuo to yield the title compound contaminated by the bromo adduct. MS (MH+)=206.1; Calc'd 206.07 for C8H9Cl2NO.

reactant | 1-chloro-2-(2-chloro-ethoxy)-4-nitro-benzene | <12.5 mmol, 2.9 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])OCCCl | C8H7Cl2NO3
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 4-Chloro-3-(2-chloro-ethoxy)-phenylamine | ClC1=C(C=C(C=C1)N)OCCCl | C8H9Cl2NO
